US07071223B1
(C) 5-(N′-Carboxymethylene-hydrazino)-2-chloro-benzoic acid methyl ester
2-Chloro-5-hydrazino-benzoic acid methyl ester hydrochloride salt (2.0 g, 8.5 mmol) and oxoacetic acid (1.0 g, 10 mmol) were taken up in 10% HCl and stirred at ambient temperature for 1.5 hours. The resulting orange precipitate was collected by filtration. The filter cake was taken up in EtOAc, washed with brine, and dried over sodium sulfate. Concentration in vacuo yielded the above named compound (1.2 g).

reactant | 2-Chloro-5-hydrazino-benzoic acid methyl ester hydrochloride salt | 8.5 mmol, 2.0 g | Cl.COC(C1=C(C=CC(=C1)NN)Cl)=O
reactant | oxoacetic acid | 10 mmol, 1.0 g | O=CC(=O)O | C2H2O3
solvent | HCl | Cl | ClH
product | 5-(N′-Carboxymethylene-hydrazino)-2-chloro-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)NN=CC(=O)O)Cl)=O | C10H9ClN2O4
